US05300506
To a suspension of 28.3 g (118 mmol, 1.0 equiv.) of finely ground sodium 4-nitrobenzyl sulfonate in 250 mL of toluene was added 24.6 g (118 mmol, 1.0 equiv) of finely ground phosphorous pentachloride as the solid in portions. After addition the mixture was heated to reflux for one hour. The mixture was cooled, and volatile material was removed in vacuo. The residue was dissolved in 500 mL chloroform and 250 mL of water. The organic layer was separated, dried over anhydrous sodium sulfate, filtered and concentrated to give 27.8 g (100%) of 4-nitrobenzyl sulfonyl chloride, pure by 1H NMR.

reactant | sodium 4-nitrobenzyl sulfonate | [N+](=O)([O-])C1=CC=C(CS(=O)(=O)[O-])C=C1.[Na+]
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 4-nitrobenzyl sulfonyl chloride | 27.8 g, 100% | [N+](=O)([O-])C1=CC=C(CS(=O)(=O)Cl)C=C1 | C7H6ClNO4S
